US07329656B2
2-methyl-N-(4-methyl-3-(4-piperidyl)phenyl)propanamide (130 mg, 0.500 mmol) and 4-(4-fluorophenylthio)benzaldehyde (116 mg, 0.500 mmol) were dissolved in dichloroethane (5.00 mL) and acetic acid (30.0 mg, 0.500 mmol), and sodium triacetoxborohydride (212 mg, 1.00 mmol) was added at room temperature. Stirring was continued under nitrogen at room temperature for 10 h, then a saturated aqueous NaHCO3 solution and CH2Cl2 was added. The phases were separated, and the organic phase was washed with water, dried over Na2SO4 and concentrated in vacuo. Purification by flash column chromatography (eluent: cyclohexane:EtOAc (85:15 then 7:3)) gave N-[3-(1-{[4-(4-fluorophenylthio)phenyl]methyl}(4-piperidyl))-4-methylphenyl]-2-methylpropanamide (86.3 mg, 36.2% yield) as a white solid. 1H NMR (CDCl3) δ 7.43-7.32 (m, 3H), 7.31-7.22 (m, 5H), 7.09-6.98 (m, 4H), 3.51 (s, 2H), 3.04-2.93 (m, 2H), 2.76-2.61 (m, 1H), 2.52-2.41 (m, 1H), 2.27 (s, 3H), 2.14-2.03 (m, 2H), 1.86-1.65 (m, 4H), 1.25 (d, 6H, J=7.026 Hz); ESMS m/e: 477.2 (M+H)+.

reactant | 2-methyl-N-(4-methyl-3-(4-piperidyl)phenyl)propanamide | 0.500 mmol, 130 mg | CC(C(=O)NC1=CC(=C(C=C1)C)C1CCNCC1)C | C16H24N2O
reactant | 4-(4-fluorophenylthio)benzaldehyde | 0.500 mmol, 116 mg | FC1=CC=C(C=C1)SC1=CC=C(C=O)C=C1 | C13H9FOS
reactant | acetic acid | 0.500 mmol, 30.0 mg | C(C)(=O)O | C2H4O2
reactant | sodium | [Na] | Na
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 5.00 mL | ClC(C)Cl | C2H4Cl2
solvent | cyclohexane EtOAc | C1CCCCC1.CCOC(=O)C
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-[3-(1-{[4-(4-fluorophenylthio)phenyl]methyl}(4-piperidyl))-4-methylphenyl]-2-methylpropanamide | 86.3 mg, 36.2% yield | FC1=CC=C(C=C1)SC1=CC=C(C=C1)CN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C29H33FN2OS
